US06169102A
2-methylamino-5-[(5-chloroindol-3-yl)methyl]-2-oxazolin-4-one
To [(5-chloroindol-3-yl)methyl]-2-dimethylamino-2-oxazolin-4-one (200 mg) was added methylamine (20 ml). The mixture was refluxed at −6° C. for 1 hour. Removal of methylamine gave a residue, to which was added ether. The titled compound (120 mg) was obtained as a crystal.

reactant | [(5-chloroindol-3-yl)methyl]-2-dimethylamino-2-oxazolin-4-one | 200 mg | ClC=1C=C2C(=CNC2=CC1)CC1C(N=C(O1)N(C)C)=O | C14H14ClN3O2
reactant | methylamine | 20 ml | CN | CH5N
solvent | ether | CCOCC | C4H10O
product | 2-methylamino-5-[(5-chloroindol-3-yl)methyl]-2-oxazolin-4-one | 120 mg | CNC=1OC(C(N1)=O)CC1=CNC2=CC=C(C=C12)Cl | C13H12ClN3O2
